US06248736B1
Ethyl 3-(2-fluoro-5-iodophenyl)-3-oxopropanoate
To a stirred solution of 5.32 g of 2-fluoro-5-iodobenzoic acid from Preparation No. 7 in 20 mL of THF, under argon, is added 3.9 g of carbonyldiimidazole. In a separate flask, 2.8 mL of chlorotrimethylsilane is added to a mixture of 3.74 g of potassium ethyl malonate in 20 mL of acetonitrile. The mixture is stirred under argon for 18 h, then cooled to 0° C. for the dropwise addition of 6.6 mL of DBU. The mixture is stirred for 3 h at 0° C., then the solution of acyl imidazolide prepared above is added via cannula. After 2 hours, the mixture is partitioned between ether and excess dilute HCl, and the organic phase is washed with dilute HCl and brine and dried (MgSO4). Removal of the solvent under reduced pressure left a colorless oil, which is flash chromatographed on silica using 10% ethyl acetate in hexane to provide 5.07 g of the title compound as dense pinkish prisms.

reactant | 2-fluoro-5-iodobenzoic acid | 5.32 g | FC1=C(C(=O)O)C=C(C=C1)I | C7H4FIO2
reactant | carbonyldiimidazole | 3.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | chlorotrimethylsilane | 2.8 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | potassium ethyl malonate | 3.74 g | C(CC(=O)[O-])(=O)OCC.[K+]
reactant | DBU | 6.6 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Ethyl 3-(2-fluoro-5-iodophenyl)-3-oxopropanoate | 5.07 g | FC1=C(C=C(C=C1)I)C(CC(=O)OCC)=O | C11H10FIO3
